US04555509
6-Thioacetyl-3,4-dihydro-2,2-dimethyl-trans-4-(2-oxo-1-pyrrolidinyl)-2H-benzo[b]pyran-3-ol
The title compound is prepared by reaction between 6-thioacetyl-3,4-dihydro-2,2-dimethyl-3,4-epoxy-2H-benzo[b]pyran and 2-pyrrolidone in dimethylsulphoxide in the presence of sodium hydride.

reactant | 6-thioacetyl-3,4-dihydro-2,2-dimethyl-3,4-epoxy-2H-benzo[b]pyran | C(C)(=S)C1=CC2=C(OC(C3C2O3)(C)C)C=C1 | C13H14O2S
reactant | 2-pyrrolidone | N1C(CCC1)=O | C4H7NO
reactant | sodium hydride | [H-].[Na+]
solvent | dimethylsulphoxide | CS(=O)C | C2H6OS
product | 6-Thioacetyl-3,4-dihydro-2,2-dimethyl-trans-4-(2-oxo-1-pyrrolidinyl)-2H-benzo[b]pyran-3-ol | C(C)(=S)C1=CC2=C(OC([C@H]([C@@H]2N2C(CCC2)=O)O)(C)C)C=C1 | C17H21NO3S
